US05514773
The suspended solution of benzyl (R)-3-(4-aminophenyl)-2-hydroxypropionate(1.53 g), 1,4-dibromobutane (0.61 ml),potassium carbonate (2.07 g) and sodium iodide (0.37 g) indimethylformamide (5 ml) were stirred at room temperature for 71 hours. To the solution was added water (50 ml) and extracted withether (50 ml, 25 ml×2). After the ether layer was washed withsaturated brine, it was dried over anhydrous sodium sulfate. Thesolvent was evaporated in vacuo, the resultant crude product waspurified by silica gel column chromatography, and eluted withmixture of hexane and ethyl acetate (4:1, v/v). The fractionscontaining the desired product were combined and evaporated invacuo to obtain benzyl (R)-2-hydroxy-3-(4-pyrrolidinophenyl)propionate (1.35 g).

reactant | benzyl (R)-3-(4-aminophenyl)-2-hydroxypropionate | 1.53 g | NC1=CC=C(C=C1)C[C@H](C(=O)OCC1=CC=CC=C1)O | C16H17NO3
reactant | 1,4-dibromobutane | 0.61 ml | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.37 g | [I-].[Na+]
solvent | water | 50 ml | O | H2O
product | benzyl (R)-2-hydroxy-3-(4-pyrrolidinophenyl)propionate | 1.35 g | O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)N1CCCC1 | C20H23NO3
